US05710166
Preparation of ethyl β-[[3-[4-(aminoiminomethyl)benzyl]aminopropanoyl]amino]3-pyridinepropanoate
3-[4-cyanobenzyl]aminopropanoic acid (0.41 g; 2 mmoles), ethyl βamino-β-(3-pyridyl)-propanoate dihydrochloride (0.46 g; 1.7 mmoles), N,N-diisopropylethylamine (0.52 g; 4 mmoles) and benzotriazol-1-yl-oxy-tris(dimethylamino)phosphonium hexafluorophosphate (0.88 g; 2 mmoles) were stirred in N,N-dimethylformamide (25 ml) at room temperature for 1 hr. The reaction mixture was taken down to dryness and the residue was purified by HPLC. The lyophilized product was redissolved in ethanol (30 ml). The solution was saturated with HCl gas and allowed to stir overnight. The mixture was taken down to dryness and the residue was redissolved in ethanol (20 ml). To this solution, ammoniumchloride (1 g) and ammonium hydroxide (10 ml) were added. The reaction mixture was stirred at room temperature for 4 hrs and the solvent was removed under reduced pressure. The residue was purified by HPLC using acetonitrile/water/trifluoroacetic acid system. The desired fractions were collected and lyophilized to give 460 mg of white material (57% yield). FAB-MS: MH+ =398.2.

reactant | 3-[4-cyanobenzyl]aminopropanoic acid | 2 mmoles, 0.41 g | C(#N)C1=CC=C(CNCCC(=O)O)C=C1 | C11H12N2O2
reactant | ethyl βamino-β-(3-pyridyl)-propanoate dihydrochloride | 1.7 mmoles, 0.46 g | Cl.Cl.NC(CC(=O)OCC)C=1C=NC=CC1
reactant | N,N-diisopropylethylamine | 4 mmoles, 0.52 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzotriazol-1-yl-oxy-tris(dimethylamino)phosphonium hexafluorophosphate | 2 mmoles, 0.88 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | ethyl β-[[3-[4-(aminoiminomethyl)benzyl]aminopropanoyl]amino]3-pyridinepropanoate | 460 mg, 57% yield | NN=CC1=CC=C(CNCCC(=O)NC(CC(=O)OCC)C=2C=NC=CC2)C=C1 | C21H27N5O3
